US08859773B2
Step 4: 3-bromo-4-(iodomethyl)-1-tert-pentyl-1H-pyrazole
To a solution of 3-bromo-4-(chloromethyl)-1-tert-pentyl-1H-pyrazole (725 mg, 2.73 mmol) in acetone (25 mL) was added sodium iodide (4.09 g, 27.3 mmol). The reaction was heated at reflux for 2 hours, then cooled to room temperature and stirred overnight. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated aqueous sodium thiosulfate and brine. The organics were dried over sodium sulfate, filtered, and concentrated to yield the title compound (824 mg, 85%) as a brown oil. 1H NMR (400 MHz, CDCl3, δ): 7.47 (s, 1H), 4.26 (s, 2H), 1.83 (q, J=7.41 Hz, 2H), 1.50 (s, 6H), 0.67 (t, J=7.51 Hz, 3H).

reactant | 3-bromo-4-(chloromethyl)-1-tert-pentyl-1H-pyrazole | 2.73 mmol, 725 mg | BrC1=NN(C=C1CCl)C(C)(C)CC | C9H14BrClN2
reactant | sodium iodide | 27.3 mmol, 4.09 g | [I-].[Na+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-bromo-4-(iodomethyl)-1-tert-pentyl-1H-pyrazole | 824 mg, 85% | BrC1=NN(C=C1CI)C(C)(C)CC | C9H14BrIN2
